US05661160
Combine 3-hydroxy-phenyl acetic acid (9.26 g, 60.9 mmol), isopropyl iodide (42.6 g, 250 mmol), and acetone (80 mL). Add portionwise, potassium carbonate (16.9 g, 122 mmol). Heat to reflux with vigorous mechanical stirring. After 20 hours, cool to ambient temperature and evaporate in vacuo to give a residue. Partition the residue between diethyl ether and 5% sodium hydroxide solution. Extract the organic layer with water and a saturated sodium chloride solution. Dry the organic layer over MgSO4, filter and evaporate in vacuo to obtain a liquid. Bulb-to-bulb distillation gives 3-isopropoxy-phenyl-acetic acid isopropyl ester: bp; 125° C. at 0.2 mm of Hg.

reactant | 3-hydroxy-phenyl acetic acid | 60.9 mmol, 9.26 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | isopropyl iodide | 250 mmol, 42.6 g | C(C)(C)I | C3H7I
reactant | potassium carbonate | 122 mmol, 16.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 80 mL | CC(=O)C | C3H6O
product | 3-isopropoxy-phenyl-acetic acid isopropyl ester | C(C)(C)OC(CC1=CC(=CC=C1)OC(C)C)=O | C14H20O3
